US08293909B2
Step 2: Preparation of methyl 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate.
The reaction flask was wrapped in aluminum foil. NBS (175 mg, 0.983 mmol) was added to a stirring solution of methyl 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate (289 mg, 0.800 mmol) in DCE (8 mL) at room temperature. It was allowed to stir overnight. The mixture was diluted with EtOAc and quenched with 10% sodium metabisulfate and washed with sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) the expected product consistent by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41 (1H, d, J=2.01 Hz), 8.16-8.26 (2H, m), 8.06 (1H, d, J=2.26 Hz), 7.95 (1H, dd, J=8.03, 1.76 Hz), 7.87 (1H, d), 7.45-7.57 (3H, m), 3.86 (3H, s), 2.34 (3H, s). LC-MS retention time: 2.85 min; m/z (MH+): 440, 442. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | NBS | 0.983 mmol, 175 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | methyl 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate | 0.800 mmol, 289 mg | FC1=CC=C(C=C1)C1=CC=2C(=NC=C(C2)C=2C=C(C(=O)OC)C=CC2C)O1 | C22H16FNO3
solvent | aluminum | [Al] | Al
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)OC)C=CC2C)C2=CC=C(C=C2)F | C22H15BrFNO3
